US05158950
a) Isopropyl 2-(1,3-dithiol-2-ylidene)-2-[N-(4-acetoxyphenyl) carbamoyl]acetate
Isopropyl 2-(1,3-dithiol-2-ylidene)-2-[N-(4-hydroxyphenyl) carbamoyl]acetate (13.5 g) and triethylamine (6.7 ml) were dissolved in methylene chloride (100 ml) and cooled to 0° C. To the mixture was added acetyl chloride (3.16 ml) dropwise and then stirred for 1 hr. The reaction mixture was washed with water and dried over anhydrous magnesium sulfate. The solution was evaporated to dryness and the residue was triturated with n-hexane to give the titled compound. (12 g), 79.1%)

reactant | Isopropyl 2-(1,3-dithiol-2-ylidene)-2-[N-(4-hydroxyphenyl) carbamoyl]acetate | 13.5 g | S1C(SC=C1)=C(C(=O)OC(C)C)C(NC1=CC=C(C=C1)O)=O | C15H15NO4S2
reactant | triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.16 ml | C(C)(=O)Cl | C2H3ClO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | Isopropyl 2-(1,3-dithiol-2-ylidene)-2-[N-(4-acetoxyphenyl) carbamoyl]acetate | S1C(SC=C1)=C(C(=O)OC(C)C)C(NC1=CC=C(C=C1)OC(C)=O)=O | C17H17NO5S2
